US05571833
Reaction of 2-chloro-3-methyl-4-nitrophenol (2.26 g) with neopentyl iodide (4.78 g) in 1-methyl 2-pyrrolidinone (30 ml) in the presence of potassium carbonate (3.34 g) was conducted at 140° C. overnight. The crude product was partitioned between 2M HCl and ethyl acetate, and the organic phase was washed with water, dried (MgSO4) and evaporated to dryness. The residue was chromatographed (SiO2 ; hexane/ether) to give 2-chloro-3-neopentyloxy-6-nitrotoluene as a yellow solid (2.44 g).

reactant | 2-chloro-3-methyl-4-nitrophenol | 2.26 g | ClC1=C(C=CC(=C1C)[N+](=O)[O-])O | C7H6ClNO3
reactant | neopentyl iodide | 4.78 g | C(C(C)(C)C)I | C5H11I
reactant | potassium carbonate | 3.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl 2-pyrrolidinone | 30 ml | CN1C(CCC1)=O | C5H9NO
product | 2-chloro-3-neopentyloxy-6-nitrotoluene | 2.44 g | ClC1=C(C(=CC=C1OCC(C)(C)C)[N+](=O)[O-])C | C12H16ClNO3
